US07897601B2
To a suspension of 5-(2-chloro-4-methoxy-phenyl)-penta-2,4-dienoic acid [3-(4-chloro-phenyl)-allyl]-amide (9.8 g, 25 mmol) and (Boc)2O (11 g, 50.4 mmol, 2 eq.) in 150 mL dichloromethane was added triethylamine (3.5 mL, 25.1 mmol, 1 eq.) followed by DMAP (3.1 g, 25.4 mmol, 1 eq.). The mixture was stirred for 1 hr at room temperature, diluted with ether, washed with 1N HCl, aq. NaHCO3, brine, dried over MgSO4, filtered and concentrated to provide 9.8 g of [5-(2-chloro-4-methoxy-phenyl)-penta-2,4-dienoyl]-[3-(4-chloro-phenyl)-allyl]-carbamic acid tert-butyl ester.

reactant | 5-(2-chloro-4-methoxy-phenyl)-penta-2,4-dienoic acid [3-(4-chloro-phenyl)-allyl]-amide | 25 mmol, 9.8 g | ClC1=CC=C(C=C1)C=CCNC(C=CC=CC1=C(C=C(C=C1)OC)Cl)=O | C21H19Cl2NO2
reactant | (Boc)2O | 50.4 mmol, 11 g, 2 eq. | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 25.1 mmol, 3.5 mL, 1 eq. | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
catalyst | DMAP | 25.4 mmol, 3.1 g, 1 eq. | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | ether | CCOCC | C4H10O
product | [5-(2-chloro-4-methoxy-phenyl)-penta-2,4-dienoyl]-[3-(4-chloro-phenyl)-allyl]-carbamic acid tert-butyl ester | 9.8 g | C(C)(C)(C)OC(N(CC=CC1=CC=C(C=C1)Cl)C(C=CC=CC1=C(C=C(C=C1)OC)Cl)=O)=O | C26H27Cl2NO4
